US08975254B2
(S)-tert-butyl 4-(4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazol-2-yl)piperidine-1-carboxylate was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (400 mg, 1.534 mmol) and 2-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1,3-thiazole-4-carboxylic acid (479 mg, 1.534 mmol). The product was purified twice by Flash-chromatography. Yield 33.9%. 1H-NMR (400 MHz; DMSO-d6): δ 1.14 (d, 3H), 1.41 (s, 9H), 1.49-1.64 (m, 2H), 1.98-2.08 (m, 2H), 2.89 (bs, 2H), 3.15-3.27 (m, 1H), 3.96-4.09 (m, 2H), 4.29-4.52 (m, 3H), 6.96 (s, 1H), 7.84 (d, 1H), 7.92 (dd, 1H), 7.97 (dd, 1H), 8.06 (dd, 1H), 8.10 (s, 1H), 8.28 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.534 mmol, 400 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 2-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1,3-thiazole-4-carboxylic acid | 1.534 mmol, 479 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O | C14H20N2O4S
product | (S)-tert-butyl 4-(4-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)thiazol-2-yl)piperidine-1-carboxylate | Yield 33.9% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C27H31ClN6O3S
